US05618941
3-[2-[(4-Chlorophenyl)sulphonylamino]ethyl]-5-[(4-fluorophenyl)methyl]benzenepropanoic acid
A mixture of ethyl 3-[2-[(4-chlorophenyl)sulphonylamino]ethyl]-5-[(4-fluorophenyl)methyl]benzenepropanoate (500 mg), 2N sodium hydroxide solution (1.5 ml) and methanol (5 ml) was heated under reflux for 1 hour and then evaporated. The residue was dissolved in a small volume of water, and the solution was made acidic with 2N hydrochloric acid. The resulting mixture was extracted several times with ether and the combined extracts were dried (MgSO4) and evaporated to give the title compound,(390 mg), m.p. 85°-87° C. Found: C,60.78A H,5.06; N,2.87. C24H33ClFNO4S requires C,60.56; H,4.87; N,2.94%.

reactant | ethyl 3-[2-[(4-chlorophenyl)sulphonylamino]ethyl]-5-[(4-fluorophenyl)methyl]benzenepropanoate | 500 mg | ClC1=CC=C(C=C1)S(=O)(=O)NCCC=1C=C(C=C(C1)CC1=CC=C(C=C1)F)CCC(=O)OCC | C26H27ClFNO4S
reactant | sodium hydroxide | 2N, 1.5 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 3-[2-[(4-Chlorophenyl)sulphonylamino]ethyl]-5-[(4-fluorophenyl)methyl]benzenepropanoic acid | 390 mg | ClC1=CC=C(C=C1)S(=O)(=O)NCCC=1C=C(C=C(C1)CC1=CC=C(C=C1)F)CCC(=O)O | C24H23ClFNO4S
